US20010056188A1
1) 3-(Benzo[1,3]dioxol-5-ylamino)-2-(4-chlorophenylsulfonyl)-3-methylsulfanyl-2-propenenitrile
To a solution of 4-chlorophenylsulfonylacetonitrile (1.00 g, 4.64 mmol) in dry acetone (10 ml) first dry potassium carbonate (1.28 g, 9.3 mmol) and then 3,4-methylenedioxyphenyl isothiocyanate (0.87 g, 4.9 mmol) were added. The resulting mixture was stirred at room temperature under nitrogen for 4 h, and then filtered. To the filtrate methyl iodide (0.86 ml, 13.9 mmol) was added. The mixture was stirred at room temperature for 50 min. Then pH was adjusted to 1 with 1N aqueous HCl. The precipitate was filtered off and washed with water to give 1.12 g (59%) of the title compound. Mp 196-200° C. 1 H NMR (200 MHz, CDCl3): δ=2.22 (s, 3H), 6.05 (s, 2H), 6.68 (m, 2H), 6.80 (d, 1H), 7.53 (d, 2H), 7.87 (d, 2H), 9.80 (br s, 1H); EI SP/MS: 408 (M+).

reactant | 4-chlorophenylsulfonylacetonitrile | 4.64 mmol, 1.00 g | ClC1=CC=C(C=C1)S(=O)(=O)CC#N | C8H6ClNO2S
reactant | potassium carbonate | 9.3 mmol, 1.28 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3,4-methylenedioxyphenyl isothiocyanate | 4.9 mmol, 0.87 g | C1OC=2C=C(C=CC2O1)N=C=S | C8H5NO2S
reactant | methyl iodide | 13.9 mmol, 0.86 ml | CI | CH3I
reactant | HCl | 1N | Cl | ClH
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 3-(Benzo[1,3]dioxol-5-ylamino)-2-(4-chlorophenylsulfonyl)-3-methylsulfanyl-2-propenenitrile | 1.12 g, 59% | O1COC2=C1C=CC(=C2)NC(=C(C#N)S(=O)(=O)C2=CC=C(C=C2)Cl)SC | C17H13ClN2O4S2
